US08334287B2
4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one
2-chloro-4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridine (120 mg, 0.366 mmol) was dissolved in 6 ml tert-butanol. A 50% solution of KOH (2 ml, 26.7 mmol) was added and the mixture was refluxed for 72 h. The reaction mixture was concentrated in vaccuo, the pH was adjusted to 7 by addition of 37% HCl solution, and the aqueous phase was extracted twice with 40 ml of ethyl acetate. The organic phase was washed once with 10 of brine, dried with magnesium sulfate, filtered and evaporated. The title compound (104 mg, 0.336 mmol, 92%) was obtained as a crystalline light yellow solid, MS: m/e=310.1, 312.2 (M+H+).

reactant | 2-chloro-4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridine | 0.366 mmol, 120 mg | ClC1=NC=CC(=C1)N1C(=NC(=C1)C#CC1=CC(=CC=C1)Cl)C | C17H11Cl2N3
reactant | KOH | 26.7 mmol, 2 ml | [OH-].[K+]
solvent | tert-butanol | 6 ml | C(C)(C)(C)O | C4H10O
product | 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one | 0.336 mmol, 104 mg, 92% | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC(NC=C1)=O)C | C17H12ClN3O
